US06342622B1
To a three-necked flask of 250 ml, fitted with a condenser, was added 3.55 g (12.4 mmol) of 6-phenyl-2-bromo-1-indanone, 100 ml of tetrahydrofuran (THF) and 100 ml of absolute ethanol. A dark red solution was formed and 0.40 g (10 mmol) of sodiumboronhydride was added in small portions. The mixture was stirred for 15 hours at room temperature. The mixture was poured onto ice and a 5% hydrochloric acid solution was added. The water layer was extracted 3 times with ether and the combined ether layer washed 2 times with a saturated NaCl solution. The ether was evaporated under reduced pressure yielding 2.57 g (8.89 mmol) of 6-phenyl-2-bromoindanol (72%).

reactant | 6-phenyl-2-bromo-1-indanone | 12.4 mmol, 3.55 g | C1(=CC=CC=C1)C1=CC=C2CC(C(C2=C1)=O)Br | C15H11BrO
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-phenyl-2-bromoindanol | 8.89 mmol, 2.57 g, 72% | C1(=CC=CC=C1)C1=CC=C2CC(C(C2=C1)O)Br | C15H13BrO
